US03959308
A mixture of 6.0 grams of 4,5-dihydro-3-(4-pyridyl)-2H-naphtho [1,2-c]pyrazole, 6.0 grams of 5% palladium or carbon, 150 ml of absolute ethanol and 50 ml of dry dioxane are stired and refluxed for about 75 hours. The mixture is allowed to cool to room temperature, and is then treated with about 50 ml of 1:1 methanol/methylene dichloride. The mixture is stirred for about 15 minutes and then filtered through celite. The filtrate is concentrated in vacuo and the residue crystallized from ethanol/ether to give 3-(4-pyridyl)-2H-naphtho[1,2-c]pyrazole, (m.p. 273°-276°.)

reactant | 4,5-dihydro-3-(4-pyridyl)-2H-naphtho [1,2-c]pyrazole | 6.0 grams | N1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1CC2 | C16H13N3
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 6.0 grams | [Pd] | Pd
solvent | methanol methylene dichloride | about 50 ml | CO.C(Cl)Cl
product | 3-(4-pyridyl)-2H-naphtho[1,2-c]pyrazole | N1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1C=C2 | C16H11N3
